US05047411
Methyl iodide (0.38 ml) was added dropwise to a solution of potassium 6-[2-(3,7-dimethylimidazo[1,2-a]-pyridin-2-yl)ethyl]-2-benzoxazolethiolate (2.00 g) in methanol (30 ml) under ice-water cooling. After being stirred for 3 hours keeping the temperature below 5° C., the solvent was evaporated in vacuo. The residue was mixed with water and extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate and evaporated in vacuo. The residue was recrystallized from a mixture of ethyl acetate and n-hexane to give 6-[2-(3,7-dimethylimidazo[1,2-a]pyridin-2-yl)ethyl]-2-methylthiobenzoxazole (1.31 g).

reactant | Methyl iodide | 0.38 ml | CI | CH3I
reactant | potassium 6-[2-(3,7-dimethylimidazo[1,2-a]-pyridin-2-yl)ethyl]-2-benzoxazolethiolate | 2.00 g | CC1=C(N=C2N1C=CC(=C2)C)CCC2=CC1=C(N=C(O1)[S-])C=C2.[K+]
solvent | methanol | 30 ml | CO | CH4O
product | 6-[2-(3,7-dimethylimidazo[1,2-a]pyridin-2-yl)ethyl]-2-methylthiobenzoxazole | 1.31 g | CC1=C(N=C2N1C=CC(=C2)C)CCC2=CC1=C(N=C(O1)SC)C=C2 | C19H19N3OS
